US07718693B2
N-(2-biphenylylmethyl)-1-ethyl-5-oxoprolinamide was prepared in a manner analogous to that described above for the synthesis of N-[(2,3-dimethylphenyl)methyl]-1-ethyl-5-oxoprolinamide (E50) but using (2-biphenylylmethyl)amine in place of 2,3-dimethyl benzylamine.

reactant | N-[(2,3-dimethylphenyl)methyl]-1-ethyl-5-oxoprolinamide | CC1=C(C=CC=C1C)CNC([C@H]1N(C(CC1)=O)CC)=O | C16H22N2O2
reactant | (2-biphenylylmethyl)amine | C1(=C(C=CC=C1)CN)C1=CC=CC=C1 | C13H13N
product | N-(2-biphenylylmethyl)-1-ethyl-5-oxoprolinamide | C1(=C(C=CC=C1)CNC([C@H]1N(C(CC1)=O)CC)=O)C1=CC=CC=C1 | C20H22N2O2
